US06911464B2
(1R)-N-{2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-(N-formyl-N-hydroxy-amino)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide was prepared by the procedure of Example 7 from N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide (0.7 g, 1.7 mmol) and 2,2,2-trifluoroethyl formate (2.2 g, 17 mmol) in THF (10 mL) to give a white solid (480 mg, 64% yield): mp: 79-81° C. 1H NMR (DMSO-d6) δ 1.31 (t, J=7 Hz, 3H, CH3), 1.99 (s, 3H, CH3), 2.32-2.42 (m, 2H, CH2), 3.40-3.52 (m, 2H, CH2), 3.73 (s, 3H, CH3), 3.98-4.02 (m, 2H, CH2), 4.14 (d, J=17 Hz, 1H, NCHH), 4.54 (d, J=17 Hz, 1H, NCHH), 5.23-5.28 (m, 1H, NCH), 6.92-6.96 (m, 3H, Ar), 7.18 (d, J=8 Hz, 1H, Ar), 7.50 (t, J=8 Hz, 1H, Ar), 7.83 (s, 0.5H, CH), 8.24-8.27 (m, 1.5H, Ar, CH), 9.64 (s, 0.5H, OH), 10.07 (s, 0.5H, OH), 10.30 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.70, 24.50, 28.34, 28.52, 43.39, 45.81, 46.19, 46.74, 51.14, 51.92, 55.45, 63.81, 111.97, 112.39, 116.63, 117.39, 119.66, 131.60, 132.70, 137.02, 142.21, 142.30, 147.96, 148.54, 157.35, 168.21, 168.38, 168.51; Anal Calcd for C23H27N3O6+0.4 H2O: C, 61.57; H, 6.25; N, 9.36; H2O, 1.61. Found: C, 61.77; H, 6.18; N, 8.97; H2O, 0.55.

reactant | N-{2-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxyamino-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide | 1.7 mmol, 0.7 g | C(C)OC=1C=C(C=CC1OC)C(CCNO)N1CC2=CC=CC(=C2C1=O)NC(C)=O | C22H27N3O5
reactant | 2,2,2-trifluoroethyl formate | 17 mmol, 2.2 g | C(=O)OCC(F)(F)F | C3H3F3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1R)-N-{2-[1-(3-Ethoxy-4-methoxy-phenyl)-3-(N-formyl-N-hydroxy-amino)-propyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-acetamide | C(C)OC=1C=C(C=CC1OC)[C@@H](CCN(O)C=O)N1CC2=CC=CC(=C2C1=O)NC(C)=O | C23H27N3O6
